US06211242B1
A mixture of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-[2-(2-methoxycarbonylethyl)aminoethoxy]phenyl]benzamide (409 mg), di-tert-butyl dicarbonate (189 mg) and triethylamine (87.8 mg) in dichloromethane (20 ml) was stirred in an ice bath for 6 hours and the mixture was washed successively with 1N hydrochloric acid, water and brine. The organic solution was dried over magnesium sulfate and the solvent was evaporated in vacuo to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-[2-[N-(2-methoxycarbonylethyl)-N-(t-butoxycarbonyl)amino]ethyloxy]phenyl]benzamide (450 mg) as a colorless amorphous.

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-[2-(2-methoxycarbonylethyl)aminoethoxy]phenyl]benzamide | 409 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCNCCC(=O)OC)C)C=C1 | C34H35N3O5
reactant | di-tert-butyl dicarbonate | 189 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 87.8 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-[2-[N-(2-methoxycarbonylethyl)-N-(t-butoxycarbonyl)amino]ethyloxy]phenyl]benzamide | 450 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCN(C(=O)OC(C)(C)C)CCC(=O)OC)C)C=C1 | C39H43N3O7
